Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / Sulfa (Sulfonamides) / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Expressive aphasia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ who presents to the ED with a one day history 
of word finding difficulty and slurred speech. His wife also 
reports that he has been more agitated recently.
 
Past Medical History:
1. Hyperlipidemia
2. Lung Cancer(s/p right middle lobectomy and mediastinoscopy 
___, s/p left lower lobectomy ___
3. s/p tonsillectomy
4. s/p wisdom teeth extraction
5. Recent history of myalgia s/p statin use.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission:
O: T: 98.6 BP:133 / 90        HR: 108   R 16      O2Sats94%
Gen: WD/WN, comfortable, NAD.
HEENT:anicteric  Pupils: ___ bilaterally    EOMs intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, not place and date.
Recall: ___ objects at 5 minutes.
Language: Speech wordy and pressured.
Naming intact but delayed. slurred

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light bilaterally. 
Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: B T Br Pa Ac
Right       wnl
Left        wnl

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

Upon discharge:
The patient has improved. He has very mild word-finding 
difficulty but otherwise his speech is fluent and he has no 
obvious receptive aphasia. He is oriented x 3, PERRL, EOMS 
intact. Full strength and sensation throughout. No pronator 
drift. Ambulating without assistance.
 
Pertinent Results:
Labs on Admission:
___ 06:55PM BLOOD WBC-5.5 RBC-4.70 Hgb-14.3 Hct-40.8 MCV-87 
MCH-30.4 MCHC-35.0 RDW-12.4 Plt ___
___ 06:55PM BLOOD Neuts-56 Bands-1 ___ Monos-11 Eos-1 
Baso-0 Atyps-2* ___ Myelos-0
___ 06:55PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-1+ Burr-1+
___ 06:55PM BLOOD Plt Smr-NORMAL Plt ___
___ 06:55PM BLOOD Glucose-93 UreaN-14 Creat-1.0 Na-137 
K-4.1 Cl-100 HCO3-25 AnGap-16
___ 06:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:46PM BLOOD Lactate-1.5

Labs on Discharge:
___ 05:45AM
WBC     Hgb Hct Plt Ct
8.7 13.8* 41.0    341
___ PTT    ___ 
13.8* 24.7    1.2*
Gluc UreaN Creat Na K Cl HCO3 
122* 22* 1.0 137 4.4 100 26

Imaging:
CTA Chest ___:
TECHNIQUE: MDCT axial images were obtained from the thoracic 
inlet to upper abdomen with the administration of IV contrast. 
Coronal, sagittal, and oblique reformatted images were obtained. 

CT OF THE CHEST WITH IV CONTRAST: The heart and pericardium are 
unremarkable, without pericardial effusion. Mild atherosclerotic 
calcifications of the aortic arch are seen. Otherwise, the great 
vessels are unremarkable, without evidence of pulmonary 
embolism. There are a few scattered mediastinal lymph nodes, 
which are not pathologically enlarged. No hilar or axillary 
lymphadenopathy is identified. There are post-surgical changes 
following right middle lobe and left lower lobe wedge 
resections, with surgical clips seen within the left perihilar 
region. There are dependent atelectases in the lungs 
bilaterally. Again noted is a right lower lobe nodule, directly 
adjacent to the inferior pulmonary vein, which measures 
approximately 13 mm x 13 mm (3:66). A previously noted 
additional 4-mm right lower lobe nodule is not as well 
appreciated on this study, likely related to slice selection. 
There is no evidence of consolidation or pulmonary edema. There 
is no pleural effusion. Limited views of the upper abdomen 
reveal gallstones.   
OSSEOUS STRUCTURES: No suspicious lytic or sclerotic lesions 
identified. 
IMPRESSION: 
1. No evidence of pulmonary embolism. 
2. Right lower lobe nodule, which measures approximately 13 mm x 
13 mm. 
3. Previously noted 4-mm right lower lobe nodule is not well 
appreciated, 
likely related to slice selection. 
4. Gallstones. 

CT Perfusion of Head ___:
CONCLUSION: No evidence of infarction. Note that the CT 
perfusion study is
limited by motion artifact.

MRI Head ___:
FINDINGS: There is no evidence of hemorrhage, edema, masses, 
mass effect, or infarction. The ventricles and sulci are normal 
in caliber and configuration. No diffusion abnormalities are 
noted. There is no abnormal enhancement after contrast 
administration. Of note, there is no evidence of an abnormality 
at the pontomedullary junction. There have been no significant 
changes since the
brain MR ___.

CT Torso ___:
IMPRESSION:
1. Lytic lesion in the sternum that is concerning for a possible 
metastatic
osseous focus.
2. A new 13 x 6 mm soft tissue nodule in the anterior 
perinephric space
adjacent to the left kidney lower pole is also concerning for a 
metastasis in Gerota's fascia. Given the unusual location for a 
metastatic focus, an
exophytic renal lesion remains in the differential. MRI is 
recommended for
further evaluation.
3. Mixed heterogeneous lesion within the uncinate process of the 
pancreas
with hypodense component that is seen on prior examinations 
dating back to
___ that is largely unchanged; second smaller cystic lesion 
in the tail of the pancreas. The differential includes side 
branch IPMT and other cystic neoplasms like microcystic serous 
cystadenoma.
4. Stable appearance of right lower lobe pulmonary nodules with 
dominant
nodule measuring approximately 13 x 10 mm, and a smaller 4-mm 
nodule.
5. Cholelithiasis without CT evidence of cholecystitis.
6. Sigmoid diverticulosis without evidence of diverticulitis.
 
 
 
Brief Hospital Course:
Patient was admitted to the neurosurgery service via the 
emergency department with complaint of expressive aphasia and 
mild confusion. Imaging from the OSH supposedly revealed a 
cerebellopontine mass.  He was then admitted to the neurosurgery 
stepdown unit for ongoing monitoring. On ___ am, we attempted 
to get an MRI to further characterize the mass, as well as 
potentially identify alternate pathology to explain verbal 
findings. Due to his confusion, he did not tolerate the MRI 
procedure and attempt was aborted. In lieu of MRI; a CT 
perfusion study of the brain was performed to ensure a stroke 
was not evolving-and was determined to be normal.  On ___ he 
was found to be markedly improved with steroid treatment, and 
MRI was successfully perfomred. After careful review of the MRI 
with the neurosurgeon, neurologist, and neuro-radiologist it was 
determined that there was no mass present in the brain as 
previously thought from outside imaging. The patient was sent 
home with his family with instructions to follow-up with his 
neurologist and to continue keppra for seizure prophylaxis.
 
Medications on Admission:
Atavorstatin 20mg daily
 
Discharge Medications:
1. Levetiracetam 250 mg Tablet Sig: One (1) Tablet PO twice a 
day for 7 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
seizures

 
Discharge Condition:
Neurologically Stable

 
Discharge Instructions:
•You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
-If you have any seizures lasting greater than 1 minute that do 
not resolve on their own, please call the neurology office. If 
you have mental status changes or prolonged seizures, go to the 
nearest emergency room.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.

 
Followup Instructions:
___